US05534515
Aa. 1-Benzyl-7-chloro-2-methylpyrrolo[2,3-d]pyridazine
A suspension of 2.0 g (8.3 mmol) of 1-benzyl-2-methyl-6,7-dihydropyrrolo[2,3-d]pyridazine 7-one in 20 ml of phosphorus oxychloride is stirred at 85° C. for 7 h. The excess phosphorus oxychloride is subsequently distilled off and the residue is hydrolyzed in 50 ml of water. After neutralization with 2 N sodium hydroxide solution, the mixture is extracted with 3×50 ml of dichloromethane. The organic extracts are washed with 50 ml of water, dried over magnesium sulfate and concentrated. The residue is recrystallized from methanol. 1.8 g (84%) of the title compound are isolated. M.p.: 152°-156° C.

reactant | 1-benzyl-2-methyl-6,7-dihydropyrrolo[2,3-d]pyridazine 7-one | 8.3 mmol, 2.0 g | C(C1=CC=CC=C1)N1C(=CC2=C1C(NN=C2)=O)C | C14H13N3O
reactant | phosphorus oxychloride | 20 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-Benzyl-7-chloro-2-methylpyrrolo[2,3-d]pyridazine | 1.8 g, 84% | C(C1=CC=CC=C1)N1C(=CC=2C1=C(N=NC2)Cl)C | C14H12ClN3
